US04559403
A mixture of 2.5g 4-chloromethyl-1-(3,4-dimethoxybenzyl-6,7-dimethoxyisoquinoline 2-oxide, 35 ml dimethylformamide, 1.8 triethylamine and 1.29 g 1-(2-methoxyphenyl)piperazine was stirred and heated under nitrogen at 50° for 7 hours. After evaporation of the solvent, the residue was partitioned between methylene chloride and water. The methylene chloride solution was washed with water and dried. After removal of the solvent in vacuo, the residue (3.5 g) was crystallized from methylene chloride/ethyl acetate to yield 3.05 g of yellow, hygroscopic crystals of 1-(3,4)-dimethoxybenzyl)-6,7-dimethoxy-4-{]4'-(2-methoxyphenyl)-1'-piperazinyl]methyl} isoquinoline 2-oxide, mp 128°-129° (dec.).

reactant | 3,4-dimethoxybenzyl-6,7-dimethoxyisoquinoline 2-oxide | COC=1C=C(CC2=[N+](C=CC3=CC(=C(C=C23)OC)OC)[O-])C=CC1OC | C20H21NO5
reactant | dimethylformamide | 35 ml | CN(C=O)C | C3H7NO
reactant | 1-(2-methoxyphenyl)piperazine | 1.29 g | COC1=C(C=CC=C1)N1CCNCC1 | C11H16N2O
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | isoquinoline 2-oxide | C1=[N+](C=CC2=CC=CC=C12)[O-] | C9H7NO
